US07645771B2
From common intermediate methyl 3-amino-2,5-dichlorobenzoate following the procedure outlined in scheme. Methyl 3-amino-2,5-dichlorobenzoate (2.10 g, 9.55 mmol), DIEA (3.0 ml) were stirred in DCM (40 ml) at 0° C. methanesulfonyl chloride (2.18 g, 19.08 mmol) was added dropwise whike stirring at 0° C. After 2 hrs at 0° C., reaction was allowed to warm to room temperature while stirring overnight. Quenched rxn with saturated NH4Cl and washed with brine. Organic layer with dried to yield crude methyl 2,5-dichloro-3-[(methylsulfonyl)amino]benzoate (3.10 g) which will be carried on. methyl 2,5-dichloro-3-[(methylsulfonyl)amino]benzoate (3.10 g) was treated with NaOH, methanol following procedure outlined in scheme to form 2,5-dichloro-3-[(methylsulfonyl)amino]benzoic acid hydrochloride (3.53 g).

reactant | methyl 3-amino-2,5-dichlorobenzoate | NC=1C(=C(C(=O)OC)C=C(C1)Cl)Cl | C8H7Cl2NO2
reactant | Methyl 3-amino-2,5-dichlorobenzoate | 9.55 mmol, 2.10 g | NC=1C(=C(C(=O)OC)C=C(C1)Cl)Cl | C8H7Cl2NO2
reactant | DIEA | 3.0 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 19.08 mmol, 2.18 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methyl 2,5-dichloro-3-[(methylsulfonyl)amino]benzoate | 3.10 g | ClC1=C(C(=O)OC)C=C(C=C1NS(=O)(=O)C)Cl | C9H9Cl2NO4S
reactant | NaOH | [OH-].[Na+]
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 2,5-dichloro-3-[(methylsulfonyl)amino]benzoic acid hydrochloride | 3.53 g | Cl.ClC1=C(C(=O)O)C=C(C=C1NS(=O)(=O)C)Cl | InChI=1S/C8H7Cl2NO4S.ClH/c1-16(14,15)11-6-3-4(9)2-5(7(6)10)8(12)13;/h2-3,11H,1H3,(H,12,13);1H
